US07795267B2
1,1-Bis(phenylmethyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one
To a solution of 1,1-dimethylethyl 1,1-bis(phenylmethyl)-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate (1.3 g, 3.2 mmol) in dichloromethane (15 mL) was added trifluoroacetic acid (4 mL), and the mixture was stirred at room temperature for 4 hours. The reaction solution was concentrated and extracted with ethyl acetate. The extract was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added diethyl ether, the resulting crystals were collected by filtration and washed with diethyl ether to obtain the title compound (0.86 g, yield 85%).

reactant | 1,1-dimethylethyl 1,1-bis(phenylmethyl)-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 3.2 mmol, 1.3 g | C1(=CC=CC=C1)CC1(OC(N2C1CN(CC2)C(=O)OC(C)(C)C)=O)CC2=CC=CC=C2 | C25H30N2O4
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1,1-Bis(phenylmethyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one | 0.86 g, yield 85% | C1(=CC=CC=C1)CC1(OC(N2C1CNCC2)=O)CC2=CC=CC=C2 | C20H22N2O2
